US07834019B2
2) Production of 3-(6-bromopyridin-2-yl)-2,3-dimethylbutan-2-ol
In a nitrogen atmosphere, 13 mL of 2 M methylmagnesium iodide/diethyl ether solution was added to diethyl ether (20 mL) solution of 2.72 g of ethyl 2-(6-bromopyridin-2-yl)-2-methylpropionate with cooling in an ice bath. The reaction liquid was stirred at room temperature for 3 hours, and then water and aqueous 10% phosphoric acid solution were added thereto, extracted with diethyl ether, washed with aqueous saturated sodium hydrogencarbonate solution and saturated saline water, and then dried with anhydrous magnesium sulfate. After concentrated under reduced pressure, the residue was purified through silica gel column chromatography (hexane/ethyl acetate=9/1 to 8/1) to obtain 1.47 g of the entitled compound as a colorless oily substance.

reactant | methylmagnesium iodide diethyl ether | 2 M, 13 mL | C[Mg]I.C(C)OCC
reactant | diethyl ether | 20 mL | C(C)OCC | C4H10O
reactant | ethyl 2-(6-bromopyridin-2-yl)-2-methylpropionate | 2.72 g | BrC1=CC=CC(=N1)C(C(=O)OCC)(C)C | C11H14BrNO2
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
solvent | water | O | H2O
product | 3-(6-bromopyridin-2-yl)-2,3-dimethylbutan-2-ol | 1.47 g | BrC1=CC=CC(=N1)C(C(C)(O)C)(C)C | C11H16BrNO
